US07361659B2
2-Amino-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-ethyl)-methyl-amide
A stirred suspension of 2-acetamido-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-ethyl)-methyl-amide (0.85 g,2.9 mmol) in 6N hydrochloric acid (13 ml) was heated for 2 h at 80° C., evaporated, and saturated NaHCO3 solution (50 ml) was added. The mixture was extracted with ethyl acetate (3×50 ml), the combined organic layers washed with brine (50 ml), dried (MgSO4) and evaporated. The crude product was further purified by crystallization (dichloromethane/MeOH/hexane) to yield the title compound (0.49 g, 67%) as a white solid. MS (EI) 251.1 [(M)+]; mp 118° C.

reactant | 2-acetamido-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-ethyl)-methyl-amide | 2.9 mmol, 0.85 g | OCCN(S(=O)(=O)C1=C(N=C(S1)NC(C)=O)C)C | C9H15N3O4S2
solvent | hydrochloric acid | 6N, 13 ml | Cl | ClH
product | 2-Amino-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-ethyl)-methyl-amide | 0.49 g, 67% | OCCN(S(=O)(=O)C1=C(N=C(S1)N)C)C | C7H13N3O3S2
